US09358222B2
4-[1-(4-Chloro-phenyl)-1-(4-hydroxy-butoxy)-3-oxo-1,3-dihydro-isoindol-2-ylmethyl]-benzonitrile (NU8370)
The named compound was synthesised from 2-(4-(aminomethyl)benzonitrile)-3-(4-chlorophenyl)-3-hydroxyisoindolin-1-one (513 mg, 1.37 mmol, 1 equiv.) and 1,4-butanediol (616 mg, 6.85 mmol, 5 equiv.) using General Procedure B and obtained as a white solid (302 mg, 67%). 1H NMR (300 MHz, CDCl3): 7.94-7.91 (m, 1H, C(O)═C═CH), 7.55-7.52 (m, 2H, Ar—H), 7.47 and 7.33 (d: A2B2, J=8.4 Hz, 4H, Ar—H), 7.20 (m, 4H, Ar—H), 7.13-7.10 (m, 1H, Ar—H), 4.60 and 4.24 (d: AB, J=15.0 Hz, 2H, NCH2), 3.56 (t, J=5.4 Hz, 2H, HOCH2), 2.80-2.74 (m, 2H, OCH2), 1.53-1.16 (m, 4H, CH2). 13C NMR (75 MHz, CDCl3): 168.18, 145.32, 142.86, 137.20, 134.77, 132.90, 131.86, 131.46, 129.99, 129.85, 128.61, 127.95, 123.77, 123.08, 118.41, 111.33, 94.78, 62.82, 62.34, 42.68, 29.41, 25.67. Anal.: calc. for C29H23ClN2O3+0.2 H2O: C, 69.37; H, 5.16; N, 6.22. Found: C, 69.29; H, 5.20, N: 6.04.

reactant | 2-(4-(aminomethyl)benzonitrile)-3-(4-chlorophenyl)-3-hydroxyisoindolin-1-one | 1.37 mmol, 513 mg, 1 equiv. | C1=CC=C2C(=C1)C(=O)N(C2(C3=CC=C(C=C3)Cl)O)CC4=CC=C(C=C4)C#N | C22H15ClN2O2
reactant | 1,4-butanediol | 6.85 mmol, 616 mg, 5 equiv. | C(CCCO)O | C4H10O2
product | 4-[1-(4-Chloro-phenyl)-1-(4-hydroxy-butoxy)-3-oxo-1,3-dihydro-isoindol-2-ylmethyl]-benzonitrile | 302 mg, 67% | ClC1=CC=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)CC1=CC=C(C#N)C=C1)OCCCCO | C26H23ClN2O3
